US07101871B2
To a stirred suspension of D-alanine methyl ester hydrochloride (2.0 g) and 5N aqueous sodium hydroxide solution (2.9 mL) in water (15 mL) at 0° C., acrylonitrile (1.1 mL) was added. The resultant mixture was stirred at 70° C. for 3.5 h and cooled to room temperature. Di-tert butyl dicarbonate (30 mL) was added and the reaction mixture stirred for two days. The reaction mixture was diluted with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by flash column chromatography (silica, ethyl acetate/hexane 2:3) to yield methyl N-(tert-butoxycarbonyl)-N-(2-cyanoethyl)-D-alaninate.

reactant | D-alanine methyl ester hydrochloride | 2.0 g | Cl.COC([C@H](N)C)=O
reactant | sodium hydroxide | 5N, 2.9 mL | [OH-].[Na+]
reactant | acrylonitrile | 1.1 mL | C(C=C)#N | C3H3N
reactant | Di-tert butyl dicarbonate | 30 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | methyl N-(tert-butoxycarbonyl)-N-(2-cyanoethyl)-D-alaninate | C(C)(C)(C)OC(=O)N([C@H](C)C(=O)OC)CCC#N | C12H20N2O4
